US07632791B2
(1R*,4S*)-1-Hydroxy-1,4-dimethylspiro[4.6]undecan-2-one
As described in Example 1, (1R*,2R*,4S*)-/(1R*,2S*,4S*)-1,4-dimethylspiro[4.6]-undecane-1,2-diol (570 mg, 2.69 mmol) was oxidized with pyridinium chlorochromate (630 mg, 2.95 mmol) on Celite® (630 mg) in CH2Cl2 (10+12 mL) at room temp. for 12 h. Standard work-up by vacuum filtration over a pad of Celite® furnished after purification by silica-gel FC (pentane/Et2O, 9:1, Rf=0.10) (1R*,4S*)-1-hydroxy-1,4-dimethylspiro[4.6]undecan-2-one (21 mg, 4%).

reactant | (1R*,2S*,4S*)-1,4-dimethylspiro[4.6]-undecane-1,2-diol | 2.69 mmol, 570 mg | C[C@@]1([C@H](C[C@@H](C12CCCCCC2)C)O)O | C13H24O2
reactant | pyridinium chlorochromate | 2.95 mmol, 630 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | (1R*,4S*)-1-Hydroxy-1,4-dimethylspiro[4.6]undecan-2-one | O[C@]1(C(C[C@@H](C12CCCCCC2)C)=O)C | C13H22O2
